US07468375B2
Step 3: Methyl 3-H-imidazo[4,5-c]pyridine-6-carboxylate.
Methyl (6S)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine-6-carboxylate dihydrochloride (156.5 g, 0.62 mol), triethylamine (445.0 g, 4.4 mol, 7.0 mol eqv.), selenium dioxide (158.2 g, 1.43 mol, 2.3 mol eqv.), and polyphosphatesilyl ether (PPSE) (15.0 g) were added to CCl4 (1.5 L). The mixture was refluxed for 6 h. After cooling to room temperature, the solvent was removed under reduced pressure. The residue was suspended in methanol (1.5 L), and triethylamine was added to adjust to pH 8. The brown solid was filtered and washed well with methanol. This brown solid (117.0 g) was recrystallized from hot DMF (2 L, 140° C.). The solution was filtered hot to remove black side products. Upon cooling to room temperature, the desired product crystallized out as a yellow solid (51.3 g, 47% yield, 95% pure). 1H NMR (DMSO-d6): δ 13.20 (br s, 1H), 9.02 (s, 1H), 8.58 (s, 1H), 8.31 (s, 1H), 3.89 (s, 3H); LCMS: Rt=1.33 min, and M+1=178.1 u/e.

reactant | Methyl (6S)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine-6-carboxylate dihydrochloride | 0.62 mol, 156.5 g | Cl.Cl.N1=CNC=2CN[C@@H](CC21)C(=O)OC
reactant | triethylamine | 4.4 mol, 445.0 g | C(C)N(CC)CC | C6H15N
reactant | selenium dioxide | 1.43 mol, 158.2 g | [Se](=O)=O | O2Se
reactant | ether | 15.0 g | CCOCC | C4H10O
solvent | CCl4 | 1.5 L | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 3-H-imidazo[4,5-c]pyridine-6-carboxylate | 47% yield | N1=CNC=2C=NC(=CC21)C(=O)OC | C8H7N3O2
